US06756388B1
6-Methoxy-2-phenyl-benzo[b]thiophene.
To a solution of 6-Methoxy -benzo[b]thiophene (250 mg, 1.52 mmol) in 3.7 mL THF at −20° C. was added dropwise n-butyllithium (0.67 mL, 1.67 mmol). The mixture was stirred at 0° C. for 1.5 hrs. and at room temperature for 0.5 hrs. Anhydrous zinc chloride (269 mg, 1.97 mmol) in 1.9 mL of THF was added by cannula to the reaction. The reaction was then stirred at room temperature for 15 minutes and then Pd(Ph3P)4 (70 mg, 0.06 mmol) and iodobenzene (0.22 mL, 1.97 mmol) were added and the reaction stirred at room temperature for 3 hrs. Other aromatic or heteroaromatic bromides, iodides or triflates can replace iodobenzene in this procedure. If a triflate is used 3 equivalents of anhydrous lithium chloride must be added. The reaction can be refluxed overnight to push it towards completion. The solvent was evaporated and the residue was diluted water and extracted into ethyl acetate. The combined organic layers was dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was chromatographed on silica gel using 100% Hexanes to 1% ethyl acetate/hexanes as the gradient eluant to yield 250 mg of the title compound.

reactant | 6-Methoxy -benzo[b]thiophene | 1.52 mmol, 250 mg | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | n-butyllithium | 1.67 mmol, 0.67 mL | C(CCC)[Li]
reactant | iodobenzene | 1.97 mmol, 0.22 mL | IC1=CC=CC=C1 | C6H5I
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | lithium chloride | 3 equivalents | [Cl-].[Li+]
solvent | THF | 3.7 mL | C1CCOC1 | C4H8O
solvent | THF | 1.9 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1.97 mmol, 269 mg | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(Ph3P)4 | 0.06 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Methoxy-2-phenyl-benzo[b]thiophene | 250 mg | COC=1C=CC2=C(SC(=C2)C2=CC=CC=C2)C1 | C15H12OS
